### PR TITLE
[Merged by Bors] - feat(Tactic.Bound): Add a `bound` tactic for inequalities by structure

### PR DESCRIPTION
**Pull request by girving**
`bound` proves inequalities that follow "obviously by structure", assuming nonnegativity or positivity of subterms where necessary.  It is built on top of Aesop.  It has significant overlap with `positivity` and `gcongr`, but can also switch back and forth between those modes (such as when proving `0 < a * b - a * c` from `0 < a`, `c < b`).

Zulip discussion: https://leanprover.zulipchat.com/#narrow/stream/239415-metaprogramming-.2F-tactics/topic/.60bound.60.20mixes.20.60gcongr.60.20and.20.60positivity.60/near/412120380

---

Here's an initial implementation of the `bound` tactic discussed on Zulip, upstreamed from https://github.com/girving/ray/blob/main/Ray/Tactic/Bound.lean.  Happy to do whatever cleanup or further testing is deemed useful.  Some notes:

1. `mul_inv_le_one_of_nonneg_of_le` and `Real.pi_nonneg` should probably be moved to their appropriate places, but I wanted to check first.
2. `le_self_pow_of_pos` is a wart due to `bound` not knowing what to do with `n ≠ 0` goals.  One option would be give `bound` a rule for `Nat.pos_iff_ne_zero`, so that `n ≠ 0` automatically turns into `0 < n`.
3. `Bound.lean` currently imports `Mathlib.Analysis.Analytic.Basic` just to add `r_pos` as a forward rule.  If this rule is reasonable it would of course be better to move that to `Mathlib.Analysis.Analytic.Basic` to remove the heavy import.
4. I added two more triangle inequalities in a separate PR (which also shows up as a commit within this one until that other PR is dealt with):

- [x] depends on: https://github.com/leanprover-community/mathlib4/pull/10561 [extra triangle inequalities]

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/Bound.lean [hunk 1]
```diff
@@ -0,0 +1,338 @@
...
+`bound` is an `aesop` wrapper that proves inequalities by straightforward recursion on structure,
+assuming that intermediate terms are nonnegative or positive as needed.  It also has some report
+for guessing where it is unclear where to recurse, such as which side of a `min` or `max` to use
+as the bound or whether to assume a power is less than or greater than one.
+
+The functionality of `bound` overlaps with `positivity` and `gcongr`, but can jump back and forth
+between `0 ≤ x` and `x ≤ y`-type inequalities.  For example, `bound` proves
+  `0 ≤ c → b ≤ a → 0 ≤ a * c - b * c`
+By turning the goal into `b * c ≤ a * c`, then using `mul_le_mul_of_nonneg_right`.  `bound` also
+has used specialized lemmas for goals of the form `1 ≤ x, 1 < x, x ≤ 1, x < 1`.
```
Comment (jcommelin) [inline Mathlib/Tactic/Bound.lean:26]:
```suggestion
uses specialized lemmas for goals of the form `1 ≤ x, 1 < x, x ≤ 1, x < 1`.
```

File: Mathlib/Tactic/Bound.lean [hunk 2]
```diff
@@ -0,0 +1,338 @@
...
+
+Additional hypotheses can be passed as `bound [h0, h1 n, ...]`.  This is equivalent to declaring
+them via `have` before calling `bound`.
+
+See `Ray.Tactic.BoundTests` for tests.
```
Comment (jcommelin) [inline Mathlib/Tactic/Bound.lean:31]:
```suggestion
See `test/Bound.lean` for tests.
```

Comment (Ruben-VandeVelde) [inline Mathlib/Tactic/Bound.lean:31]: I don't think this is right

File: Mathlib/Tactic/Bound.lean [hunk 3]
```diff
@@ -0,0 +1,338 @@
...
+
+### Calc usage
+
+Since `bound` requires the inequality proof to exactly match the structure of the expression, it is
+often useful to iterate between `bound` and `rw / simp` using `calc`.  Here is an example:
+
+```
+-- Calc example: A weak lower bound for `z ← z^2 + c`
```
Comment (Ruben-VandeVelde) [inline Mathlib/Tactic/Bound.lean:39]: This doesn't look like the right arrow

File: Mathlib/Tactic/Bound.lean [hunk 4]
```diff
@@ -0,0 +1,338 @@
...
+lemma le_sqr_add {c z : ℂ} (cz : abs c ≤ abs z) (z3 : 3 ≤ abs z) :
+    2 * abs z ≤ Complex.abs (z^2 + c) := by
+  calc Complex.abs (z^2 + c)
+    _ ≥ Complex.abs (z^2) - abs c := by bound
+    _ ≥ Complex.abs (z^2) - abs z := by bound
+    _ ≥ (abs z - 1) * abs z := by rw [mul_comm, mul_sub_one, ←pow_two, ←Complex.abs.map_pow]
+    _ ≥ 2 * abs z := by bound
```
Comment (Ruben-VandeVelde) [inline Mathlib/Tactic/Bound.lean:46]: Please don't switch between `Complex.abs` and `abs` here, and add a space after `←`

File: Mathlib/Tactic/Bound.lean [hunk 5]
```diff
@@ -0,0 +1,338 @@
...
+```
+
+### Aesop heuristics
+
+`bound` uses a `bound` aesop rule set, with rules organized as follows:
+
+#### High-confidence apply rules
+
+1. `norm apply`: Lemmas which close inequalities immediately, such as `le_refl, Real.exp_pos`,
```
Comment (Ruben-VandeVelde) [inline Mathlib/Tactic/Bound.lean:55]:
```suggestion
1. `norm apply`: Lemmas which close inequalities immediately, such as `le_refl`, `Real.exp_pos`,
```

File: Mathlib/Tactic/Bound.lean [hunk 6]
```diff
@@ -0,0 +1,338 @@
...
+    triangle inequalities, etc.
+2. `safe 2 apply`: High-confidence lemmas which produce one new goal, such as `inv_le_one`.  Here by
+    high-confidence we mean roughly "are how one would naively prove the inequality, assuming
+    intermediate terms are nonnegative or positive when necessary".  It is important that these are
+    `safe 2`, not `safe 1`, so that `assumption` can fire early in case the naive proof is wrong
+    and we have an assumption that can close the goal immediately.
```
Comment (Ruben-VandeVelde) [inline Mathlib/Tactic/Bound.lean:61]: I don't follow this (probably because of my lack of experience with `aesop`). What is the connection between `safe 1` and `assumption`?

File: Mathlib/Tactic/Bound.lean [hunk 7]
```diff
@@ -0,0 +1,338 @@
...
+-- `min` and `max` guessing lemmas
+lemma le_max_of_le_left_or_le_right : a ≤ b ∨ a ≤ c → a ≤ max b c := le_max_iff.mpr
+lemma lt_max_of_lt_left_or_lt_right : a < b ∨ a < c → a < max b c := lt_max_iff.mpr
+lemma min_le_of_left_le_or_right_le : a ≤ c ∨ b ≤ c → min a b ≤ c := min_le_iff.mpr
+lemma min_lt_of_left_lt_or_right_lt : a < c ∨ b < c → min a b < c := min_lt_iff.mpr
+
+/-- Branch on `1 ≤ a ∨ a ≤ 1` for `a^n` -/
+lemma pow_le_pow_right_of_le_one_or_one_le {R : Type} [OrderedSemiring R] {a : R} {n m : ℕ}
+    (h : 1 ≤ a ∧ n ≤ m ∨ 0 ≤ a ∧ a ≤ 1 ∧ m ≤ n) : a ^ n ≤ a ^ m := by
+  rcases h with ⟨a1,nm⟩ | ⟨a0,a1,mn⟩
```
Comment (Ruben-VandeVelde) [inline Mathlib/Tactic/Bound.lean:256]:
```suggestion
  rcases h with ⟨a1, nm⟩ | ⟨a0, a1, mn⟩
```
(more below)

File: Mathlib/Tactic/Bound.lean [hunk 8]
```diff
@@ -0,0 +1,338 @@
...
+
+end Bound
+
+/-- `bound` tactic for proving inequalities via straightforward recursion on expression structure -/
+elab "bound" lemmas:(("[" term,* "]")?) : tactic => do
+  Bound.addHyps (Bound.maybeTerms lemmas)
+  let tac ← `(tactic| aesop (rule_sets [Bound, -default]) (config := Bound.boundConfig))
+  liftMetaTactic fun g ↦ do return (← Lean.Elab.runTactic g tac.raw).1
+
+/-- `bound?`, but return a proof script -/
```
Comment (Ruben-VandeVelde) [inline Mathlib/Tactic/Bound.lean:334]: Did you mean
```suggestion
/-- `bound`, but return a proof script -/
```

File: test/Bound.lean [hunk 9]
```diff
@@ -0,0 +1,138 @@
...
+-- Test various elaboration issues
+lemma test_try_elab {f : ℂ → ℂ} {z w : ℂ} {s r c e : ℝ}
+      (sc : ∀ {w}, abs (w - z) < s → abs (f w - f z) < e) (wz : abs (w - z) < s) (wr : abs w < r)
+      (h : ∀ z : ℂ, abs z < r → abs (f z) ≤ c * abs z) :
+      abs (f z) ≤ c * abs w + e := by
+  calc abs (f z) = abs (f w - (f w - f z)) := by ring_nf
+    _ ≤ abs (f w) + abs (f w - f z) := by bound
+    _ ≤ c * abs w + e := by bound [h w wr, sc wz]
+
+-- Test a lemma that requires function inference (and thus )
```
Comment (Ruben-VandeVelde) [inline test/Bound.lean:118]: ?

File: test/Bound.lean [hunk 10]
```diff
@@ -0,0 +1,138 @@
...
+  intro n; bound [le n]
+
+-- Calc example: A weak lower bound for `z ← z^2 + c`
+lemma le_sqr_add {c z : ℂ} (cz : abs c ≤ abs z) (z3 : 3 ≤ abs z) :
+    2 * abs z ≤ Complex.abs (z^2 + c) := by
+  calc Complex.abs (z^2 + c)
+    _ ≥ Complex.abs (z^2) - abs c := by bound
+    _ ≥ Complex.abs (z^2) - abs z := by bound
+    _ ≥ (abs z - 1) * abs z := by rw [mul_comm, mul_sub_one, ←pow_two, ←Complex.abs.map_pow]
+    _ ≥ 2 * abs z := by bound
```
Comment (Ruben-VandeVelde) [inline test/Bound.lean:138]: Same comments as in the documentation

**Review by Ruben-VandeVelde — COMMENTED** [review]
Neat. A few comments below

File: Mathlib/Tactic/Bound.lean [hunk 11]
```diff
@@ -0,0 +1,338 @@
...
+3. `safe 3 apply`; High-confidence lemmas which produce one new general inequality goal, but
+    possibly additional nonnegativity goals.  The standard example is `mul_le_mul_of_nonneg_left`.
+4. `safe 4 apply`: High-confidence lemmas which produce multiple general inequality goals, such as
+    `add_le_add` and `mul_le_mul`.  Note that we still declare these as `safe` for speed, even
+    though they can certainly be wrong (e.g., we could have `0 ≤ x * y` because `x, y ≤ 0`),
+    following the general heuristic of `bound` to assume nonnegativity where useful.
+
+### Guessing apply rules
+
+There are several cases where there two standard ways to recurse down an inequality, and it is not
```
Comment (jcommelin) [inline Mathlib/Tactic/Bound.lean:71]:
```suggestion
There are several cases where there are two standard ways to recurse down an inequality, and it is not
```

File: Mathlib/Tactic/Bound.lean [hunk 12]
```diff
@@ -0,0 +1,338 @@
...
+obvious which is correct without more information.  For example, `a ≤ min b c` is registered as a
+a `safe apply 4` rule, since we always need to prove `a ≤ b ∧ a ≤ c`.  But if we see `min a b ≤ c`,
+either `a ≤ b` and `a ≤ c` suffices, and we don't know which.
+
+In these cases we declare a new loop with an `∨` hypotheses that covers the two cases, and register
```
Comment (jcommelin) [inline Mathlib/Tactic/Bound.lean:76]:
```suggestion
In these cases we declare a new loop with a `∨` hypothesis that covers the two cases, and register
```

**Review by jcommelin — COMMENTED** [review]
A review of the module docstring.

**Comment by girving** [comment]
Thank for all the comments!  Will reply to them soon, but wanted to leave a separate thought here before I forget it.

Currently one has to manually map each lemma to the appropriate rule type and priority, but I think this could be mostly automated:

1. Have a single `bound` attribute that all the lemmas are registered to.
2. For each, count the number of (1) general inequality hypotheses and (2) positivity/nonnegativity hypotheses, then map to priority based on lexicographic ordering of (1) and (2). 

Does that seem reasonable?  I can make that refactoring if so, and it would make it way easier to register new bound lemmas.

**Comment by ericrbg** [comment]
If this is your manual algorithm wrt applying the priorities to these lemmas, I think this would be most welcome!

File: Mathlib/Tactic/Bound.lean (hunk 2 above)
Comment (girving) [reply Mathlib/Tactic/Bound.lean:31]: Indeed, I'll accept Johan's fix.

File: Mathlib/Tactic/Bound.lean (hunk 3 above)
Comment (girving) [reply Mathlib/Tactic/Bound.lean:39]: Sorry, it was the error for the iteration, since I was thinking about dynamics.  But that in context \mapsto is way better.  Will fix.

File: Mathlib/Tactic/Bound.lean (hunk 4 above)
Comment (girving) [reply Mathlib/Tactic/Bound.lean:46]: Fixed to `abs` everywhere, and I added the spaces.  Thanks!

File: Mathlib/Tactic/Bound.lean (hunk 6 above)
Comment (girving) [reply Mathlib/Tactic/Bound.lean:61]: Hmm, this seems like it was me hallucinating, since actually the priority of `Assumption` is -50: https://github.com/leanprover-community/aesop/blob/master/Aesop/BuiltinRules/Assumption.lean#L14.  I'll remove the comment for now, and test whether I can shift things down once I automate priority assignment.

File: test/Bound.lean (hunk 9 above)
Comment (girving) [reply test/Bound.lean:118]: Broken parethentical dropped.

File: test/Bound.lean (hunk 10 above)
Comment (girving) [reply test/Bound.lean:138]: Sorry about the `{Complex.,}abs` thing.  Unfortunately some of them work without it and some of them don't, due to imperfect inference, but I agree uniformity is good.

**Comment by girving** [comment]
Priority selection is automatic now (see `Bound/Attribute.lean` for the algorithm), which makes registering lemmas way cleaner.  The algorithm works well (I visually inspected everything it output, then confirmed that all of https://github.com/girving/ray works with the new algorithm), but it is arguably missing some `whnf` calls (basically, it assumes everything is already in sufficiently normal form).  Advice on whether I should clean it further is appreciated.

This will make it way easier to register lemmas downstream as well, as one doesn't have to think about priorities.

**Comment by YaelDillies** [comment]
> It has significant overlap with `positivity`

Can it in fact not call `positivity`?

**Comment by YaelDillies** [comment]
I argued before that `positivity` should know that `a < b → 0 < b - a`, so it really feels like you could plug `bound` on `positivity` by adding a parameter to `positivity` calls to use `gcongr`-like behavior.

Basically I'm trying to decide whether "Run `positivity` and `gcongr` intertwiningly" is a reasonable algorithm for `bound`. Because if it is that means we don't need to maintain an extra attribute for `bound`.

File: Mathlib/Tactic/Bound/Attribute.lean [hunk 13]
```diff
@@ -0,0 +1,103 @@
...
+namespace Bound
+
+initialize Lean.registerTraceClass `bound.attribute
+
+/-- Check if an expression is zero -/
+def isZero : Lean.Expr → Bool
+  | .lit (.natVal 0) => true
+  | .const `Zero.zero _ => true
+  | .app (.app (.app (.const `OfNat.ofNat _) _) z) _ => isZero z
+  | _ => false
```
Comment (YaelDillies) [inline Mathlib/Tactic/Bound/Attribute.lean:27]: This incorrectly handles meta-data: If I pass in `Zero.zero` wrapped in `mdata`, this will incorrectly say it is not zero. You should use Qq matching instead.

File: Mathlib/Tactic/Bound/Attribute.lean [hunk 14]
```diff
@@ -0,0 +1,103 @@
...
+        (← bif i == .default then do
+          let p ← hypPriority decl a h
+          pure p
+        else pure 0)
+    | _ => match type.getAppFnArgs.1 with
+      | `LE.le => return 0
+      | `LT.lt => return 0
+      | `GE.ge => return 0
+      | `GT.gt => return 0
+      | _ => throwError (f!"`{decl}` has invalid type `{type}` as a bound lemma")
```
Comment (YaelDillies) [inline Mathlib/Tactic/Bound/Attribute.lean:62]: Similarly here your match will fail if there's meta-data around.

**Comment by girving** [comment]
`bound` is slightly more general than positivity and gcongr interleaved, since it also knows how to go from `0 <= a <= b` to `a / b <= 1` for each.

But if we could extend to handle that kind of thing too, I’d be open to that alternative.  My sense from the thread linked in the original post is that there isn’t interest in broadening positivity and gcongr, though.

**Comment by YaelDillies** [comment]
I just think it would be a shame to have three tools designed to solve basically the same problems.

**Comment by girving** [comment]
What’s the standard method of establishing consensus, given that this doesn’t seem to be general current view?

**Comment by YaelDillies** [comment]
Talk to Zulip, open an outstandingly good PR, run performance tests...

File: Mathlib/Tactic/Bound/Attribute.lean (hunk 13 above)
Comment (YaelDillies) [reply Mathlib/Tactic/Bound/Attribute.lean:27]: Can you look at what `positivity` does? There should be the same problem there.

File: Mathlib/Tactic/Bound.lean [hunk 15]
```diff
@@ -0,0 +1,307 @@
...
+  Bound.addHyps (Bound.maybeTerms lemmas)
+  let tac ← `(tactic| aesop (rule_sets [Bound, -default]) (config := Bound.boundConfig))
+  liftMetaTactic fun g ↦ do return (← Lean.Elab.runTactic g tac.raw).1
+
+/-- `bound`, but return a proof script.
+
+TODO: Add support for additional hypotheses via `bound? [h0, ...]`.  Currently these are not yet
+linked into Aesop's proof script generation. -/
+elab "bound?" : tactic => do
+  let tac ← `(tactic| aesop? (rule_sets [Bound, -default]) (config := Bound.boundConfig))
```
Comment (YaelDillies) [inline Mathlib/Tactic/Bound.lean:306]:
```suggestion
  let tac ← `(tactic| aesop? (rule_sets := [Bound, -default]) (config := Bound.boundConfig))
```

File: Mathlib/Tactic/Bound/Attribute.lean (hunk 13 above)
Comment (girving) [reply Mathlib/Tactic/Bound/Attribute.lean]: Done.

File: Mathlib/Tactic/Bound.lean (hunk 15 above)
Comment (girving) [reply Mathlib/Tactic/Bound.lean]: Done (resp. other places, and other aesop changes).

File: Mathlib/Tactic/Bound.lean [hunk 16]
```diff
@@ -0,0 +1,299 @@
...
+Copyright (c) 2024 Geoffrey Irving. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Geoffrey Irving
+-/
+
+import Aesop
+import Mathlib.Analysis.Analytic.Basic
+import Mathlib.Analysis.SpecialFunctions.Trigonometric.Basic
+import Mathlib.Analysis.SpecialFunctions.Log.Basic
+import Mathlib.Analysis.SpecialFunctions.Pow.Real
```
Comment (YaelDillies) [inline Mathlib/Tactic/Bound.lean:11]: These imports are very heavy. Is it possibly to make the file where the tactic itself is defined quite lightweight and put the `bound` support for those operations in the files where the operations are defined?

**Review by YaelDillies — COMMENTED** [review]
The result from my private discussion with Geoffrey is that we don't agree on whether the aesop-based approach (this PR) is better than an extension-based approach (not written anywhere, but basically some kind of chimera between `positivity` and `gcongr`, hopefully reusing most of their code and extensions). Hence I am of the opinion that we should just try out what we have, keeping in mind that we might eventually swap out implementations.

File: Mathlib/Tactic/Bound.lean (hunk 16 above)
Comment (girving) [reply Mathlib/Tactic/Bound.lean:11]: Yep, will do soon.

Comment (girving) [reply Mathlib/Tactic/Bound.lean]: Done, `Bound.lean` now imports

```
mport Aesop
import Mathlib.Algebra.Order.AbsoluteValue
import Mathlib.Algebra.Order.BigOperators.Group.Finset
import Mathlib.Algebra.Order.Field.Basic
import Mathlib.Algebra.Order.Floor
import Mathlib.Algebra.Order.Ring.Basic
import Mathlib.Algebra.Order.Ring.Defs
import Mathlib.Tactic.Bound.Attribute
import Mathlib.Tactic.Lemma
import Mathlib.Tactic.Linarith.Frontend
import Mathlib.Tactic.NormNum.Core
```

 Let me know if I should remove more of them.

**Comment by girving** [comment]
Latest merge conflict fixed!

File: Mathlib/Data/NNReal/Basic.lean [hunk 17]
```diff
@@ -375,9 +376,13 @@ noncomputable example : LinearOrder ℝ≥0 := by infer_instance
 @[simp, norm_cast] lemma coe_lt_coe : (r₁ : ℝ) < r₂ ↔ r₁ < r₂ := Iff.rfl
 #align nnreal.coe_lt_coe NNReal.coe_lt_coe
 
+@[bound] lemma coe_lt_coe_of_lt {r₁ r₂ : NNReal} : r₁ < r₂ → (r₁ : ℝ) < r₂ := coe_lt_coe.mpr
```
Comment (YaelDillies) [inline Mathlib/Data/NNReal/Basic.lean:379]:
```suggestion
@[bound] alias \<_, Bound.coe_lt_coe_of_lt\> := coe_lt_coe
```
and elsewhere

File: Mathlib/Tactic/Bound.lean [hunk 18]
```diff
@@ -0,0 +1,273 @@
...
+/-!
+### `bound` tactic implementation
+-/
+
+/-- Pull the array out of an optional `"[" term,* "]"` syntax, or return `#[]` -/
+def maybeTerms : Syntax → Array Syntax
+  | node _ _ #[_, node _ _ s, _] => s.getEvenElems
+  | _ => #[]
+
+/-- Add extra hypotheses -/
```
Comment (YaelDillies) [inline Mathlib/Tactic/Bound.lean:251]: Deserves more explanation

File: Mathlib/Tactic/Bound.lean [hunk 19]
```diff
@@ -0,0 +1,273 @@
...
+  Aesop.SingleRuleTac.toRuleTac fun i => do
+    Linarith.linarith false [] {} i.goal
+    return (#[], none, some .hundred)
+attribute [aesop unsafe 5% tactic (rule_sets := [Bound])] boundLinarith
+
+/-!
+### `bound` tactic implementation
+-/
+
+/-- Pull the array out of an optional `"[" term,* "]"` syntax, or return `#[]` -/
```
Comment (YaelDillies) [inline Mathlib/Tactic/Bound.lean:246]: This is not `bound`-specific, right?

File: Mathlib/Tactic/Bound.lean (hunk 18 above)
Comment (girving) [reply Mathlib/Tactic/Bound.lean:251]: Added more; is that enough?

File: Mathlib/Data/NNReal/Basic.lean (hunk 17 above)
Comment (girving) [reply Mathlib/Data/NNReal/Basic.lean:379]: Done, thank you!

File: Mathlib/Tactic/Bound.lean (hunk 19 above)
Comment (YaelDillies) [reply Mathlib/Tactic/Bound.lean:246]: I will ask for an opinion from meta reviewers

File: Mathlib/Tactic/Bound.lean (hunk 18 above)
Comment (YaelDillies) [reply Mathlib/Tactic/Bound.lean]: Looks good, and makes it clear that it too is not `bound`-specific

File: Mathlib/Tactic/Bound.lean [hunk 20]
```diff
@@ -0,0 +1,280 @@
...
+`bound` is built on top of `aesop`, and uses
+1. Apply lemmas registered via the `@bound` attribute
+2. Forward lemmas registered via the `@bound_forward` attribute
+3. Local hypotheses from the context
+4. Optionally: additional hypotheses provided as `bound [h₀, h₁]` or similar. These are added to the
+   context as if by `have := hᵢ`. -/
+elab "bound" lemmas:(("[" term,* "]")?) : tactic => do
+  Bound.addHyps (Bound.maybeTerms lemmas)
+  let tac ← `(tactic| aesop (rule_sets := [Bound, -default]) (config := Bound.boundConfig))
+  liftMetaTactic fun g ↦ do return (← Lean.Elab.runTactic g tac.raw).1
```
Comment (adomani) [inline Mathlib/Tactic/Bound.lean:280]:
```suggestion
syntax "bound " (" [" term,* "]")? : tactic

elab_rules : tactic
  | `(tactic| bound $[[$lemmas:term,*]]?) => do
    let lemmas := (lemmas.getD ⟨#[]⟩).getElems
    Bound.addHyps lemmas
    let tac ← `(tactic| aesop (rule_sets := [Bound, -default]) (config := Bound.boundConfig))
    liftMetaTactic fun g ↦ do return (← Lean.Elab.runTactic g tac.raw).1
```
This should allow you to avoid `maybeTerms`: this leverages `.getElems`, which "does the right thing".

File: Mathlib/Tactic/Bound/Attribute.lean [hunk 21]
```diff
@@ -0,0 +1,111 @@
...
+  | _ => return false
+
+/-- Map the arguments of an inequality expression to a score -/
+def ineqPriority (a b : Q($α)) : MetaM ℕ := do
+  return if (← isZero a) || (← isZero b) then 1 else 10
+
+/-- Map a hypothesis type to a score -/
+partial def hypPriority (hyp : Q(Prop)) : MetaM ℕ := do
+  match hyp with
+    -- Conjections add scores
```
Comment (adomani) [inline Mathlib/Tactic/Bound/Attribute.lean:41]:
```suggestion
    -- Conjunctions add scores
```

File: Mathlib/Tactic/Bound/Attribute.lean [hunk 22]
```diff
@@ -0,0 +1,111 @@
...
+  /-- Score the type of argument `x` -/
+  argPriority (x : Lean.Expr) : MetaM ℕ := do
+    hypPriority (← Lean.Meta.inferType x)
+  /-- Insist that our conclusion is an inequality -/
+  checkResult (t : Q(Prop)) : MetaM Unit := do match t with
+    | ~q(@LE.le _ $i $a $b) => return ()
+    | ~q(@LT.lt _ $i $a $b) => return ()
+    | ~q(@GE.ge _ $i $b $a) => return ()
+    | ~q(@GT.gt _ $i $b $a) => return ()
+    | _ => throwError (f!"`{decl}` has invalid type `{type}` as a bound lemma")
```
Comment (adomani) [inline Mathlib/Tactic/Bound/Attribute.lean:68]:
```suggestion
    | _ => throwError (f!"`{decl}` has invalid type `{type}` as a 'bound' lemma: \
                          it should be an inequality")
```

File: Mathlib/Tactic/Bound/Attribute.lean [hunk 23]
```diff
@@ -0,0 +1,111 @@
...
+    builderOptions := {}
+    ruleSets := ⟨#[`Bound]⟩ }
+
+initialize Lean.registerBuiltinAttribute {
+  name := `bound
+  descr := "Register a theorem as an apply rule for the `bound` tactic."
+  applicationTime := .afterCompilation
+  add := fun decl stx attrKind => Lean.withRef stx do
+    let score ← Aesop.runTermElabMAsCoreM <| declPriority decl
+    trace[bound.attribute] "{decl} has score {score}"
```
Comment (adomani) [inline Mathlib/Tactic/Bound/Attribute.lean:95]:
```suggestion
    trace[bound.attribute] "'{decl}' has score '{score}'"
```

Comment (adomani) [reply Mathlib/Tactic/Bound/Attribute.lean:95]: Thanks for writing this!

I have virtually no experience with either `Qq` or `Aesop`, so my review is very superficial.  However, it looks very good and would be happy to see how it performs in Mathlib!

File: Mathlib/Data/NNReal/Basic.lean [hunk 24]
```diff
@@ -1268,7 +1271,7 @@ def evalNNRealtoReal : PositivityExt where eval {u α} _zα _pα e := do
     let ra ← core q(inferInstance) q(inferInstance) a
     assertInstancesCommute
     match ra with
-    | .positive pa => pure (.positive q(nnreal_coe_pos $pa))
+    | .positive pa => pure (.positive q(Bound.coe_pos_of_pos $pa))
```
Comment (semorrison) [inline Mathlib/Data/NNReal/Basic.lean:1274]: What happened here? This seems like unnecessary entanglement between `bound` and `positivity`.

File: Mathlib/Tactic/Bound.lean [hunk 25]
```diff
@@ -0,0 +1,280 @@
...
+import Mathlib.Tactic.Lemma
+import Mathlib.Tactic.Linarith.Frontend
+import Mathlib.Tactic.NormNum.Core
+
+/-!
+## The `bound` tactic
+
+`bound` is an `aesop` wrapper that proves inequalities by straightforward recursion on structure,
+assuming that intermediate terms are nonnegative or positive as needed.  It also has some report
+for guessing where it is unclear where to recurse, such as which side of a `min` or `max` to use
```
Comment (semorrison) [inline Mathlib/Tactic/Bound.lean:24]: What does "has some report" mean?

File: Mathlib/Tactic/Bound.lean [hunk 26]
```diff
@@ -0,0 +1,280 @@
...
+it as `@[bound]` will add a +100 penalty to the score, so that it will be used only if necessary.
+Aesop will then try both ways by splitting on the resulting `∨` hypothesis.
+
+Currently the two types of guessing rules are
+1. `min` and `max` rules, for both `≤` and `<`
+2. `pow` and `rpow` monotonicity rules which branch on `1 ≤ a` or `a ≤ 1`.
+
+### Closing tactics
+
+We close numerical goals with `norm_num` and `linarith`.
```
Comment (semorrison) [inline Mathlib/Tactic/Bound.lean:92]: I wonder if detecting with the goal is in `Nat` or `Int` and trying `omega` would be helpful. (No need to try this now!)

File: Mathlib/Tactic/Bound.lean (hunk 19 above)
Comment (semorrison) [reply Mathlib/Tactic/Bound.lean:246]: This and the next are small/specific enough that it is fine to leave them here.

File: Mathlib/Tactic/Bound/Attribute.lean [hunk 27]
```diff
@@ -0,0 +1,111 @@
...
+import Mathlib.Init.ZeroOne
+import Mathlib.Tactic.Bound.Init
+import Qq
+
+/-!
+# The `bound` attribute
+
+Any lemma tagged with `@[bound]` is registered as an apply rule for the `bound` tactic, by
+converting it to either `norm apply` or `safe apply <priority>`.  The classification is based
+on the number and types of the lemmas hypotheses.
```
Comment (semorrison) [inline Mathlib/Tactic/Bound/Attribute.lean:15]:
```suggestion
on the number and types of the lemma's hypotheses.
```

File: Mathlib/Tactic/Bound/Attribute.lean (hunk 22 above)
Comment (semorrison) [inline Mathlib/Tactic/Bound/Attribute.lean:68]: Have you tried this using `match_expr` rather than just `Qq`? I'd prefer, if it makes no difference, to rely on simpler / better maintained technology.

File: Mathlib/Tactic/Bound.lean [hunk 28]
```diff
@@ -0,0 +1,280 @@
...
+Authors: Geoffrey Irving
+-/
+
+import Aesop
+import Mathlib.Algebra.Order.AbsoluteValue
+import Mathlib.Algebra.Order.BigOperators.Group.Finset
+import Mathlib.Algebra.Order.Field.Basic
+import Mathlib.Algebra.Order.Floor
+import Mathlib.Algebra.Order.Ring.Basic
+import Mathlib.Algebra.Order.Ring.Defs
```
Comment (semorrison) [inline Mathlib/Tactic/Bound.lean:13]: I'm always worried about importing significant theory in tactics files. It really ties our hands simplifying the import tree.

Could you either try to minimize these imports, or add some comments explaining why these are the minimum necessary?

File: test/Bound.lean [hunk 29]
```diff
@@ -0,0 +1,140 @@
...
+-/
+
+open Complex (abs)
+open scoped NNReal
+
+section positive_tests
+variable {n : ℕ}
+variable {x y : ℝ}
+variable {u : ℝ≥0}
+variable {z : ℂ}
```
Comment (semorrison) [inline test/Bound.lean:21]: Can all go on one line?

File: test/Bound.lean [hunk 30]
```diff
@@ -0,0 +1,140 @@
...
+lemma test_min_le_of_right_le (h : b ≤ c) : min a b ≤ c := by bound
+lemma test_min_lt_of_left_lt (h : a < c) : min a b < c := by bound
+lemma test_min_lt_of_right_lt (h : b < c) : min a b < c := by bound
+lemma test_pow_le_pow_right (a1 : 1 ≤ a) (h : m ≤ n) : a^m ≤ a^n := by bound
+lemma test_pow_le_pow_of_le_one (a0 : 0 ≤ a) (a1 : a ≤ 1) (h : n ≤ m) : a^m ≤ a^n := by bound
+lemma test_rpow_le_rpow_of_exponent_le (a1 : 1 ≤ a) (h : b ≤ c) : a^b ≤ a^c := by bound
+lemma test_rpow_le_rpow_of_exponent_ge (a0 : 0 < a) (a1 : a ≤ 1) (h : c ≤ b) : a^b ≤ a^c := by bound
+end guess_tests
+
+-- This breaks without appropriate g.withContext use
```
Comment (semorrison) [inline test/Bound.lean:102]:
```suggestion
-- This breaks without appropriate `g.withContext` use in <function-name>
```

File: Mathlib/Data/NNReal/Basic.lean (hunk 24 above)
Comment (girving) [reply Mathlib/Data/NNReal/Basic.lean:1274]: Previously `nnreal_coe_pos` was a private lemma in this scope. I also needed it for `bound`, so I pulled it out to a toplevel thing and called it `NNReal.coe_pos_of_pos`. Then I was told to rename it to `Bound.coe_pos_of_pos` by @YaelDillies. I did this even though it has this one other use, in part because the use is private and within the same file.

Happy to either re-add the `nnreal_coe_pos` alias (then we would have two names for the same lemma, for two different tactics), or undo the `Bound.` scoping, or do nothing.

File: Mathlib/Tactic/Bound.lean (hunk 28 above)
Comment (girving) [reply Mathlib/Tactic/Bound.lean:13]: Yep, I will minimize this further.

File: Mathlib/Tactic/Bound.lean (hunk 25 above)
Comment (girving) [reply Mathlib/Tactic/Bound.lean:24]: Fixed: `support`.

File: Mathlib/Tactic/Bound.lean (hunk 26 above)
Comment (girving) [reply Mathlib/Tactic/Bound.lean:92]: Yes, that's a good idea! I will add a TODO comment.

File: Mathlib/Tactic/Bound/Attribute.lean (hunk 22 above)
Comment (girving) [reply Mathlib/Tactic/Bound/Attribute.lean]: Someone told me to use `Qq` while I was developing this, but I'm fine switching if that's desirable. I haven't heard of `match_expr`, though: where's it documented?

File: test/Bound.lean (hunk 29 above)
Comment (girving) [reply test/Bound.lean:21]: Done.

File: test/Bound.lean (hunk 30 above)
Comment (girving) [reply test/Bound.lean:102]: The broken code was before the `aesop` port. Okay if I leave it in there with this comment?

```
/-- This broke without appropriate `g.withContext` use in an older implementation of `bound`.
Leaving the test here just in case. -/
```

File: Mathlib/Tactic/Bound.lean (hunk 28 above)
Comment (girving) [reply Mathlib/Tactic/Bound.lean]: Done, the imports are now:

```
-- Bound/Init.lean
import Aesop.Frontend.Command

-- Bound/Attribute.lean
import Mathlib.Init.ZeroOne
import Mathlib.Tactic.Bound.Init
import Qq

-- Bound.lean
import Aesop
import Mathlib.Tactic.Bound.Attribute
import Mathlib.Tactic.Lemma
import Mathlib.Tactic.Linarith.Frontend
import Mathlib.Tactic.NormNum.Core
```

Comment (girving) [reply Mathlib/Tactic/Bound.lean]: If I get a pointer to how to use `match_expr` I can replace the `Qq` import with that.

File: Mathlib/Tactic/Bound.lean [hunk 31]
```diff
@@ -0,0 +1,267 @@
...
+
+/-!
+### `bound` tactic implementation
+-/
+
+/-- Pull the array out of an optional `"[" term,* "]"` syntax, or return `#[]` -/
+def maybeTerms : Syntax → Array Syntax
+  | node _ _ #[_, node _ _ s, _] => s.getEvenElems
+  | _ => #[]
+
```
Comment (adomani) [inline Mathlib/Tactic/Bound.lean:233]:
```suggestion
```
Is this still needed?

Comment (girving) [reply Mathlib/Tactic/Bound.lean]: Whoops, forgot to strip that.

File: Mathlib/Tactic/Bound/Attribute.lean (hunk 22 above)
Comment (girving) [reply Mathlib/Tactic/Bound/Attribute.lean]: Hmm, I looked into `match_expr` a bit, and if possible I'd like to stick with `Qq` for at least this first commit. `match_expr` doesn't seem to have support for literal zeros, is used nowhere else in `mathlib4`, and has no documentation. The first match I tried to convert was `~q(@OfNat.ofNat.{u} _ 0 $i)`, but using an explicit `0` was a syntax error for `match_expr`, and I can't find any literal matching in the `lean4` repo. I'd be happy to do a later rewrite from `Qq` to `match_expr` if it gets more support, but it seems thin at the moment.

File: Mathlib/Data/NNReal/Basic.lean (hunk 24 above)
Comment (eric-wieser) [reply Mathlib/Data/NNReal/Basic.lean:1274]: Another options would be to use `coe_pos.mpr $pa` here, at the expense of producing a very-slightly-larger proof term.

File: Mathlib/Tactic/Bound/Attribute.lean [hunk 32]
```diff
@@ -0,0 +1,112 @@
...
+
+initialize Lean.registerTraceClass `bound.attribute
+
+variable {u : Lean.Level} {α : Q(Type u)}
+
+/-- Check if an expression is zero -/
+def isZero (e : Q($α)) : MetaM Bool :=
+  match e with
+  | ~q(@OfNat.ofNat.{u} _ 0 $i) => return true
+  | ~q(@Zero.zero.{u} _ $i) => return true
```
Comment (eric-wieser) [inline Mathlib/Tactic/Bound/Attribute.lean:31]: I would guess you only need the second one of these

File: Mathlib/Tactic/Bound/Attribute.lean [hunk 33]
```diff
@@ -0,0 +1,112 @@
...
+namespace Bound
+
+initialize Lean.registerTraceClass `bound.attribute
+
+variable {u : Lean.Level} {α : Q(Type u)}
+
+/-- Check if an expression is zero -/
+def isZero (e : Q($α)) : MetaM Bool :=
+  match e with
+  | ~q(@OfNat.ofNat.{u} _ 0 $i) => return true
```
Comment (eric-wieser) [inline Mathlib/Tactic/Bound/Attribute.lean:30]:
```suggestion
  | ~q(@OfNat.ofNat.{u} _ (nat_lit 0) $i) => return true
```

File: Mathlib/Data/NNReal/Basic.lean (hunk 24 above)
Comment (YaelDillies) [reply Mathlib/Data/NNReal/Basic.lean:1274]: Ah I see what happened here. My opinion is that if two tactics want to use the same non-existing lemma, then both of them should define that lemma (possibly using `alias` from an existing lemma). The point is to make sure that tactics get precisely the lemma they want, avoiding people who modify non-tactic lemmas having to figure out how to fix the tactics.

So here you should just not touch the `positivity`-specific lemma and make your own `Bound`-specific one (which can henceforth be private, 🎉)

File: Mathlib/Tactic/Bound/Attribute.lean (hunk 32 above)
Comment (girving) [reply Mathlib/Tactic/Bound/Attribute.lean]: Do you mean that the first one should never appear (the `OfNat.ofNat`)? I think the one that appears is the second one (`Zero.zero`).

File: Mathlib/Data/NNReal/Basic.lean (hunk 24 above)
Comment (girving) [reply Mathlib/Data/NNReal/Basic.lean]: Fixed, and I made the other `Bound` aliases private as well.

File: Mathlib/Tactic/Bound/Attribute.lean (hunk 33 above)
Comment (girving) [reply Mathlib/Tactic/Bound/Attribute.lean]: I removed this line instead, let me know if that's wrong.

Comment (girving) [reply Mathlib/Tactic/Bound/Attribute.lean:30]: Fixed the way you suggested, and added tests to verify. Thank you!

File: Mathlib/Tactic/Bound/Attribute.lean (hunk 32 above)
Comment (girving) [reply Mathlib/Tactic/Bound/Attribute.lean]: @eric-wieser was correct, fixed.

File: Mathlib/Tactic/Bound/Attribute.lean [hunk 34]
```diff
@@ -0,0 +1,111 @@
...
+    | 0 => (Aesop.PhaseName.norm, 0)  -- No hypotheses: this rule closes the goal immediately
+    | s => (Aesop.PhaseName.safe, s)
+  { term? := some (Lean.mkIdent decl)
+    phase? := phase
+    priority? := some (Aesop.Frontend.Priority.int priority)
+    builder? := some (.regular .apply)
+    builderOptions := {}
+    ruleSets := ⟨#[`Bound]⟩ }
+
+initialize Lean.registerBuiltinAttribute {
```
Comment (eric-wieser) [inline Mathlib/Tactic/Bound/Attribute.lean:89]: Can you add a docstring to this, explaining when it should be used? I think this is what appears when you hover over `@[bound]`.

File: Mathlib/Algebra/Order/Field/Basic.lean [hunk 35]
```diff
@@ -162,21 +163,24 @@ lemma mul_le_of_nonneg_of_le_div (hb : 0 ≤ b) (hc : 0 ≤ c) (h : a ≤ b / c)
...
+@[bound]
 lemma inv_mul_le_one_of_le (h : a ≤ b) (hb : 0 ≤ b) : b⁻¹ * a ≤ 1 := by
   simpa only [← div_eq_inv_mul] using div_le_one_of_le h hb
 
 /-!
 ### Bi-implications of inequalities using inversions
 -/
 
-@[gcongr]
+@[gcongr, bound]
```
Comment (eric-wieser) [inline Mathlib/Algebra/Order/Field/Basic.lean:183]: Are there cases where `gcongr` is appropriate but `bound` is not? Either way, can you answer this in the docstring of `@[bound]`?

File: Mathlib/Tactic/Bound/Attribute.lean (hunk 34 above)
Comment (YaelDillies) [reply Mathlib/Tactic/Bound/Attribute.lean:89]: Probably it should crossref `bound_forward`

Comment (girving) [reply Mathlib/Tactic/Bound/Attribute.lean:89]: Done, good point.

File: Mathlib/Algebra/Order/Field/Basic.lean (hunk 35 above)
Comment (girving) [reply Mathlib/Algebra/Order/Field/Basic.lean:183]: Done.

File: Mathlib/Tactic/Bound/Attribute.lean [hunk 36]
```diff
@@ -0,0 +1,138 @@
...
+    builder? := some (.regular .apply)
+    builderOptions := {}
+    ruleSets := ⟨#[`Bound]⟩ }
+
+/-- Register a lemma as an `apply` rule for the `bound` tactic.
+
+A lemma is appropriate for `bound` if it proves an inequality using structurally simpler
+inequalities, "recursing" on the structure of the expressions involved, assuming positivity or
+nonnegativity where useful. Examples include
+1. `gcongr`-like inequalities such as `f x ≤ f y` where `f` is monotone
```
Comment (eric-wieser) [inline Mathlib/Tactic/Bound/Attribute.lean:94]: So to be clear: *every* lemma tagged `gcongr` should also be tagged `bound`?

Comment (girving) [reply Mathlib/Tactic/Bound/Attribute.lean:94]: Sorry, should only be inequalities with `≤`; I believe `gcongr` is more general. I will make this very explicit.

I could try to make `bound` automatically look into `gcongr` inequalities using `≤` if we want, but I'd prefer to delay that to a later PR.

**Comment by eric-wieser** [comment]
Could you also edit the docstring for `@[gcongr]` to indicate that adding `bound` is usually appropriate too?

**Comment by girving** [comment]
> Could you also edit the docstring for `@[gcongr]` to indicate that adding `bound` is usually appropriate too?

Done.

**Comment by girving** [comment]
Merge conflict resolved. @YaelDillies: What's the next step?

**Comment by girving** [comment]
Okay, actually fixed now. Some Mathlib refactors meant that `Bound.lean` no longer imported `pow` inequalities, so I moved those annotations out of `Bound.lean`.

**Comment by YaelDillies** [comment]
All looks good to me. Maybe Damiano and Kim can give the PR one last round of comments?

**Comment by girving** [comment]
It's been another week. Unfortunately I think for a good chunk of the week there was a trivial merge conflict that I didn't notice. Would that have meant that notifications didn't get to @adomani or @semorrison?

This is a PR that touches a lot of files in tiny ways (`@[bound]` annotations) as requested by @YaelDillies, so I'm worried that it will keep spinning in this way for several more weeks if merge conflicts keep appearing. I'd love to get this merged somehow!

@YaelDillies: Do you have suggestions for how to get this over the line?

File: Mathlib/Tactic/Bound/Attribute.lean [hunk 37]
```diff
@@ -0,0 +1,139 @@
...
+def ineqPriority (a b : Q($α)) : MetaM ℕ := do
+  return if (← isZero a) || (← isZero b) then 1 else 10
+
+/-- Map a hypothesis type to a score -/
+partial def hypPriority (hyp : Q(Prop)) : MetaM ℕ := do
+  match hyp with
+    -- Conjunctions add scores
+    | ~q($a ∧ $b) => pure <| (← hypPriority a) + (← hypPriority b)
+    -- Guessing (disjunction) gets a big penalty
+    | ~q($a ∨ $b) => pure <| 100 + (← hypPriority a) + (← hypPriority b)
```
Comment (j-loreaux) [inline Mathlib/Tactic/Bound/Attribute.lean:43]: I just wanted to record it here for later. I'm not sure that a constant additive penalty is the appropriate solution here. It seems like you would want some sort of multiplicative penalty for anything that requires branching. I don't think this is enough of a problem to hold up the PR, but in case we have performance issues as a result of branching, I think this is a good place to look for the culprit in the future.

File: test/Bound/bound.lean [hunk 38]
```diff
@@ -0,0 +1,132 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Geoffrey Irving
+-/
+
+import Mathlib.Analysis.SpecialFunctions.Pow.Real
+import Mathlib.Tactic.Bound
+
+/-!
+## Tests for the `bound` tactic
+-/
```
Comment (j-loreaux) [inline test/Bound/bound.lean:12]: You've already mentioned that `bound` has scope-overlap with `positivity` and `gcongr`. It would be nice if, in the test file, you separate out tests which should only succeed with `bound`, but neither of the others. You can leave in some which overlap, I suppose, but it would be nice to have some clear demarcation.

**Review by j-loreaux — APPROVED** [review]
Thanks! There's just a small amount I want done in the test file!

bors d+

File: Mathlib/Tactic/Bound/Attribute.lean [hunk 39]
```diff
@@ -0,0 +1,139 @@
...
+
+Any lemma tagged with `@[bound]` is registered as an apply rule for the `bound` tactic, by
+converting it to either `norm apply` or `safe apply <priority>`.  The classification is based
+on the number and types of the lemma's hypotheses.
+-/
+
+open Lean (MetaM)
+open Qq
+
+namespace Bound
```
Comment (kmill) [inline Mathlib/Tactic/Bound/Attribute.lean:21]: I think we should put all the tactic code in `Mathlib.Tactic.Bound`

File: Mathlib/Tactic/Bound.lean [hunk 40]
```diff
@@ -0,0 +1,264 @@
...
+/-- Add each provided hypothesis `x` to the context, as by with `have := x` -/
+def addHyps (xs : Array Syntax) : TacticM Unit :=
+  if xs.isEmpty then pure () else Tactic.withMainContext do
+    for x in xs do
+      let v ← elabTerm x none
+      let t ← inferType v
+      liftMetaTactic fun g ↦ do
+        let g ← g.assert `h t v
+        let (_, g) ← g.intro1P
```
Comment (kmill) [inline Mathlib/Tactic/Bound.lean:218]: Use `Lean.MVarId.note`

File: Mathlib/Tactic/Bound.lean [hunk 41]
```diff
@@ -0,0 +1,264 @@
...
+by turning the goal into `b * c ≤ a * c`, then using `mul_le_mul_of_nonneg_right`.  `bound` also
+contains lemmas for goals of the form `1 ≤ x, 1 < x, x ≤ 1, x < 1`.  Conversely, `gcongr` can prove
+inequalities for more types of relations, supports all `positivity` functionality, and is likely
+faster since it is more specialized (not built atop `aesop`). -/
+syntax "bound " (" [" term,* "]")? : tactic
+
+elab_rules : tactic
+  | `(tactic| bound $[[$lemmas:term,*]]?) => do
+    let lemmas := (lemmas.getD ⟨#[]⟩).getElems
+    Bound.addHyps lemmas
```
Comment (kmill) [inline Mathlib/Tactic/Bound.lean:262]: If this is really just `have`, then rather than redoing `have` I would make a `macro_rules` that expands this as `have := t1; have := t2; ...; have := tn; bound`.

There's a bug in `addHyps` where if there are any metavariables they get lost, rather than being added as new goals. Using `have` itself would avoid this.

File: Mathlib/Tactic/Bound/Attribute.lean (hunk 37 above)
Comment (girving) [reply Mathlib/Tactic/Bound/Attribute.lean:43]: That makes sense, but as a subtlety one would might to attach the multiplicative penalty to the Aesop rule that does the branching on the or generated by this rule, not this rule itself. Not sure how to represent that.

File: test/Bound/bound.lean (hunk 38 above)
Comment (girving) [reply test/Bound/bound.lean:12]: Will do.

File: Mathlib/Tactic/Bound/Attribute.lean (hunk 39 above)
Comment (girving) [reply Mathlib/Tactic/Bound/Attribute.lean:21]: I don’t follow this comment. The only code in Attribute.lean is that used for the attributes, which are included early in Mathlib in files which should not include Bound.lean.

File: Mathlib/Tactic/Bound.lean (hunk 41 above)
Comment (girving) [reply Mathlib/Tactic/Bound.lean:262]: That does seem good. Could I hint for what that syntax would look like? I haven’t dealt with macros before.

File: Mathlib/Tactic/Bound/Attribute.lean (hunk 39 above)
Comment (kmill) [reply Mathlib/Tactic/Bound/Attribute.lean:21]: I'm saying to change this to `namespace Mathlib.Tactic.Bound` and change the other `namespace` in the other file too.

File: Mathlib/Tactic/Bound.lean (hunk 41 above)
Comment (kmill) [reply Mathlib/Tactic/Bound.lean:262]: I think this should work:
```
macro_rules
  | `(tactic| bound%$tk [$[$ts],*]) => do
    let haves ← ts.mapM fun (t : Term) => withRef t `(tactic| have := $t)
    `(tactic| ($haves;* ; bound%$tk))
```
(Untested)

File: Mathlib/Tactic/Bound/Attribute.lean (hunk 39 above)
Comment (girving) [reply Mathlib/Tactic/Bound/Attribute.lean:21]: Is that the standard? It looks like some tactics don't do it (Linarith) and others do. I'll change it now I suppose.

Comment (kmill) [reply Mathlib/Tactic/Bound/Attribute.lean:21]: I think we should aim to have all meta code at least in the `Mathlib.Tactic` namespace. I try to put my own tactics in `Mathlib.Tactic.MyTacticName`, but it looks like I've lapsed here and there...

Precise namespacing doesn't hurt, that's for sure!

File: Mathlib/Tactic/Bound.lean (hunk 41 above)
Comment (girving) [reply Mathlib/Tactic/Bound.lean]: Works!

File: Mathlib/Tactic/Bound.lean (hunk 40 above)
Comment (girving) [reply Mathlib/Tactic/Bound.lean]: Obsolete, since with your other suggestion this function vanished.

File: test/Bound/bound.lean (hunk 38 above)
Comment (girving) [reply test/Bound/bound.lean:12]: Done.

File: Mathlib/Tactic/Bound/Attribute.lean (hunk 39 above)
Comment (girving) [reply Mathlib/Tactic/Bound/Attribute.lean]: Done!

**Comment by girving** [comment]
How do I kick the CI so that it runs again? This seems transient:

```
Warning: some files were not found in the cache.
This usually means that your local checkout of mathlib4 has diverged from upstream.
If you push your commits to a branch of the mathlib4 repository, CI will build the oleans and they will be available later.
OpenSSL SSL_connect: Connection reset by peer in connection to lakecache.blob.core.windows.net:443 
2 download(s) failed
Error: Process completed with exit code 1.
```

**Comment by girving** [comment]
@j-loreaux What's the next step? Should I still wait for the remaining two reviewers?

**Comment by adomani** [comment]
Now that you've been delegated, you should feel free to merge!  In any case, I'm happy with the current status!

🎉

**Comment by j-loreaux** [comment]
I think things are okay. Kyle didn't revoke my delegation, so you could merge. But since I'm here:

bors merge

**Comment by j-loreaux** [comment]
Oops, I thought CI was successful?

**Comment by girving** [comment]
Sorry, I'd missed that the attribute test was broken by the namespace change. Fixed, hopefully.

**Comment by girving** [comment]
@j-loreaux You up for one more merge try? I think I can't do it, since the delegation went away with the new commit.

**Comment by kmill** [comment]
You should still have it delegated to you; adding commits doesn't remove that as far as I know. Maybe a `bors r-` might? But I don't think so. I'm happy to merge though.

bors r+

**Comment by girving** [comment]
Woohoo, thank you!
